US06043248
(E)-N,N-Diethyl-4-oxo-2-pentenamide
To flame dried flask containing (E)-4-oxo-2-pentenoyl chloride (1.16 g, 8.76 mmol) in ether cooled to -15° C. is added diethylamine (1.41 g, 19.28 mmol) in ether (5 ml) and stirred for 2 hours while being warmed to ambient temperature. The solvents are removed in vacuo, and chromatographed on silica gel (230-400 mesh, 100 ml), eluting with hexane/ethyl acetate (75/25). The appropriate fractions are combined (Rf =0.31, TLC, hexane/ethyl acetate, 25/75) and concentrated in vacuo to give the title compound, NMR (CDCl3) 7.15, 7.04, 3.45, 3.40, 2.33, 1.20, 1.15.

reactant | (E)-4-oxo-2-pentenoyl chloride | 8.76 mmol, 1.16 g | O=C(/C=C/C(=O)Cl)C | C5H5ClO2
reactant | diethylamine | 19.28 mmol, 1.41 g | C(C)NCC | C4H11N
solvent | ether | CCOCC | C4H10O
solvent | ether | 5 ml | CCOCC | C4H10O
product | (E)-N,N-Diethyl-4-oxo-2-pentenamide | C(C)N(C(\C=C\C(C)=O)=O)CC | C9H15NO2
